US08623869B2
Step 6: tert-Butyl 1-(3-((hydroxyimino)methyl)phenyl)ethylcarbamate
To a solution of tert-butyl N-[1-(3-formylphenyl)ethyl]carbamate (4.0 g, 16.0 mmol) and sodium acetate (3.3 g, 40.1 mmol) in THF (69 mL) at 0° C. was added hydroxylamine hydrochloride (1.4 g, 20.9 mmol). The reaction was allowed to warm to ambient temperature and stirred for 16 hours. The reaction was concentrated in vacuo and the residue partitioned between EtOAc and water and the layers separated. The organic layer was washed with brine (×2), dried (Na2SO4), filtered and concentrated in vacuo to give the sub-title compound as a colourless gel (4.24 g, quantitative Yield). 1H NMR (400 MHz, DMSO) δ 1.30 (d, 3H), 1.33 (d, 9H), 4.61 (dd, 1H), 7.24-7.38 (m, 2H), 7.41 (q, 2H), 7.53 (s, 1H), 8.11 (s, 1H) and 11.20 (s, 1H) ppm; MS (ES+) 265.3.

reactant | tert-butyl N-[1-(3-formylphenyl)ethyl]carbamate | 16.0 mmol, 4.0 g | C(=O)C=1C=C(C=CC1)C(C)NC(OC(C)(C)C)=O | C14H19NO3
reactant | sodium acetate | 40.1 mmol, 3.3 g | C(C)(=O)[O-].[Na+]
reactant | hydroxylamine hydrochloride | 20.9 mmol, 1.4 g | Cl.NO
solvent | THF | 69 mL | C1CCOC1 | C4H8O
product | tert-Butyl 1-(3-((hydroxyimino)methyl)phenyl)ethylcarbamate | 4.24 g, quantitative Yield | ON=CC=1C=C(C=CC1)C(C)NC(OC(C)(C)C)=O | C14H20N2O3
